US08487126B2
(1) Synthesis of t-butyl[2-(4-iodophenyl)ethyl]carbamate
In THF (50 mL), 2-(4-iodophenyl)-1-ethylamine (6.59 g, 26.7 mmol) was dispersed. In the dispersion, triethylamine (3.7 mL, 26.7 mmol) and dicarbonic acid di(t-butyl) ester (5.8 g, 26.7 mmol) were added. The mixture was stirred at room temperature for 1 hour. Ethyl acetate and water were added to the mixture. The organic layer was separated, and washed with water and sodium chloride solution sequentially. The organic layer was dried with potassium carbonate, and then concentrated. The target compound (9.3 g) was obtained as a colorless needle crystal.

reactant | 2-(4-iodophenyl)-1-ethylamine | 26.7 mmol, 6.59 g | IC1=CC=C(C=C1)CCN | C8H10IN
reactant | triethylamine | 26.7 mmol, 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | dicarbonic acid di(t-butyl) ester | 26.7 mmol, 5.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | t-butyl[2-(4-iodophenyl)ethyl]carbamate | 9.3 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)I)=O | C13H18INO2
